US07449582B2
Step C′: Preparation of 3-(2,6-dichloro-3-nitro-phenyl)-1H-[1,6]naphthyridin-2-one
A solution of 2-(2,6-dichloro-3-nitro-phenyl)-N-(3-formyl-pyridin-4-yl)-acetamide (5.0 g, 14.12 mmol) and Na2CO3 (2.5 g) in MeOH (300 mL) is heated for 15 minutes at 70° C. After filtration of the reaction mixture, the solvent is removed by concentration to give crude product, which is purified by flash silica gel column elute with CH2Cl2 (100%) gradient to CH2Cl2/MeOH (2N NH3) (93/7%) to give the titled intermediate as a solid (3.75 g, 77.7%).

reactant | 2-(2,6-dichloro-3-nitro-phenyl)-N-(3-formyl-pyridin-4-yl)-acetamide | 14.12 mmol, 5.0 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)CC(=O)NC1=C(C=NC=C1)C=O | C14H9Cl2N3O4
reactant | Na2CO3 | 2.5 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 300 mL | CO | CH4O
product | 3-(2,6-dichloro-3-nitro-phenyl)-1H-[1,6]naphthyridin-2-one | 3.75 g, 77.7% | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)C=1C(NC2=CC=NC=C2C1)=O | C14H7Cl2N3O3
